US08404709B2
3-Fluoro-4-(hydroxymethyl)benzonitrile
16.10 g (89.9 mmol) of methyl 4-cyano-2-fluorobenzoate are dissolved in 150 ml of methanol. Then 3.40 g (89.9 mmol) of sodium borohydride are added in portions. After the reaction has taken place (TLC check), the mixture is adjusted to pH 3 with dilute hydrochloric acid and extracted several times with dichloromethane. The combined organic phases are washed with saturated sodium chloride solution and dried with magnesium sulfate. The solvent is then removed in vacuo, and the residue is purified by column chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate 15:1→3:7). 3.70 g (27.2% of theory) of the title compound are obtained.

reactant | methyl 4-cyano-2-fluorobenzoate | 89.9 mmol, 16.10 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)F | C9H6FNO2
reactant | sodium borohydride | 89.9 mmol, 3.40 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 3-Fluoro-4-(hydroxymethyl)benzonitrile | FC=1C=C(C#N)C=CC1CO | C8H6FNO
